US04213983
Octahydropyrido-[1,2-a]-pyrazine (5 g) was dissolved in hydrochloric acid (5 N, 16 ml) and sodium nitrate (2.7 g) in water (10 ml) added dropwise at 0°. The solution was then heated at 60° for 30 minutes and stood at room temperature for 3 hours. It was basified, saturated with potassium carbonate and extracted with ether. The ethereal extract was dried and evaporated to give N-nitroso-octahydropyrido-[1,2-a]-pyrazine as an oil.

reactant | Octahydropyrido-[1,2-a]-pyrazine | 5 g | C1C2N(CCN1)CCCC2 | C8H16N2
reactant | sodium nitrate | 2.7 g | [N+](=O)([O-])[O-].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | hydrochloric acid | 5 N, 16 ml | Cl | ClH
solvent | water | 10 ml | O | H2O
product | N-nitroso-octahydropyrido-[1,2-a]-pyrazine | N(=O)N1CC2N(CC1)CCCC2 | C8H15N3O
